US09278915B2
Intermediate 159: Ethyl 3-(4′-hydroxybiphenyl-4-yl)propanoate
To a solution of ethyl 3-(4′-methoxybiphenyl-4-yl)propanoate (0.35 g, 1.2 mmol) in dichloromethane was added borontribromide (0.4 g, 1.6 mmol) at 0° C. and stirred at RT for 30 min, Reaction quenched with ethanol and diluted with water and extracted with dichloromethane, organic layer was washed with NaHCO3, water and brine solution and dried over sodium sulphate then concentrated to white solid (0.27 g, Yield: 83.3%): 1H NMR (300 MHz, CDCl3): δ 9.49 (s, 1H), 7.43-7.48 (t, 4H), 7.23-7.26 (d, 2H), 6.81-6.84 (d, 2H), 4.01-4.08 (m, 2H), 2.83-2.88 (t, 2H), 2.59-2.64 (t, 2H), 1.13-1.18 (t, 3H).

reactant | ethyl 3-(4′-methoxybiphenyl-4-yl)propanoate | 1.2 mmol, 0.35 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)OCC | C18H20O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 3-(4′-hydroxybiphenyl-4-yl)propanoate | 0.27 g, Yield: 83.3% | OC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)OCC | C17H18O3
